US07691867B2
A solution of N-(2,3-difluorophenyl)-2-(4-{[7-(2,2-dimethoxyethoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)acetamide (0.104 g, 0.21 mmol) in a dilute solution of hydrochloric acid (1M, 1 ml) and tetrahydrofuran (5 ml) was heated at reflux for 10 hours. The mixture was allowed to cool to room temperature and was then filtered. The filtered solid was triturated with tetrahydrofuran and then dried under vaccum to give N-(2,3-difluorophenyl)-2-(4-{[7-(2-oxoethoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)acetamide as an approximate 1:1 mixture of aldehyde:hemiacetal (0.080 g, 87% yield) which was used in the next step without further purification:

reactant | N-(2,3-difluorophenyl)-2-(4-{[7-(2,2-dimethoxyethoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)acetamide | 0.21 mmol, 0.104 g | FC1=C(C=CC=C1F)NC(CN1N=CC(=C1)NC1=NC=NC2=CC(=CC=C12)OCC(OC)OC)=O | C23H22F2N6O4
reactant | hydrochloric acid | 1M, 1 ml | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(2,3-difluorophenyl)-2-(4-{[7-(2-oxoethoxy)quinazolin-4-yl]amino}-1H-pyrazol-1-yl)acetamide | FC1=C(C=CC=C1F)NC(CN1N=CC(=C1)NC1=NC=NC2=CC(=CC=C12)OCC=O)=O | C21H16F2N6O3
